US05258378
1-Phenylsulphonyl-1,4,5,6,7,8-hexahydro-6-methyl-8-phenylpyrrolo[2,3-d]azepine
A mixture of 1-phenylsulphonyl-1,4,5,6,7,8-hexahydro-8-phenylpyrrolo[2,3-d]azepine (1.24 g), formic acid (0.86 gm), 40% formaldehyde (1.3 ml), and dimethylformamide (30 ml) were refluxed for 1 hour. After evaporating to dryness, 5M hydrochloric acid was added to the residue and the solution was washed with ether three times. The aqueous solution was basified with 5M sodium hydroxide and the product was extracted into dichloromethane. The extracts were washed with water, dried and evaporated to give a solid, m.p. 115°-116° C. (ethanol).

reactant | 1-phenylsulphonyl-1,4,5,6,7,8-hexahydro-8-phenylpyrrolo[2,3-d]azepine | 1.24 g | C1(=CC=CC=C1)S(=O)(=O)N1C=CC2=C1C(CNCC2)C2=CC=CC=C2 | C20H20N2O2S
reactant | formic acid | 0.86 gm | C(=O)O | CH2O2
reactant | formaldehyde | 1.3 ml | C=O | CH2O
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 1-Phenylsulphonyl-1,4,5,6,7,8-hexahydro-6-methyl-8-phenylpyrrolo[2,3-d]azepine | C1(=CC=CC=C1)S(=O)(=O)N1C=CC2=C1C(CN(CC2)C)C2=CC=CC=C2 | C21H22N2O2S
